US09227985B2
A mixture of 7-nitro-1a-pyridin-2-yl-1a,2-dihydro-1H-azireno[2,1-c][1,4]benzoxazine (100 mg, 0.4 mmol) in methanol (6 mL) and tetrahydrofuran (2 mL) was degassed with nitrogen in a Parr bottle followed by addition of palladium (10% on carbon) (30 mg, 0.28 mmol). The reaction was charged with hydrogen to 40 psi and shaken for 6 hrs. The reaction was filtered and concentrated to give crude 3-methyl-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazin-5-amine (0.030 g. 30%). LCMS calculated for C14H16N3O (M+H)+: m/z=242.1. found: 242.1.

reactant | 7-nitro-1a-pyridin-2-yl-1a,2-dihydro-1H-azireno[2,1-c][1,4]benzoxazine | 0.4 mmol, 100 mg | [N+](=O)([O-])C1=CC=CC2=C1N1C(CO2)(C1)C1=NC=CC=C1 | C14H11N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 6 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | palladium | 0.28 mmol, 30 mg | [Pd] | Pd
product | 3-methyl-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazin-5-amine | 0.030 g, 30% | CC1(COC=2C(N1)=C(C=CC2)N)C2=NC=CC=C2 | C14H15N3O
